US05840751
6-[2-(4-Fluorophenyl)-ethyl]-5,6-dihydro-4-hydroxy-6-phenyl-2H-pyran-2-one (+/-)
The title compound was prepared as described in General Method 1 using 3.1 mL of methyl acetoacetate, 1.2 g of NaH 60% dispersion in oil, 18 mL of 1.6M n-butyl lithium in hexane, 6.0 g of 3-(4-fluorophenyl)propiophenone and 200 mL of tetrahydrofuran. After addition of the ketone, the reaction was stirred for 15 minutes at 0° C. then allowed to warm to room temperature and stirred for 4 hours. The crude product was triturated from diethyl ether to afford a solid (m.p. 155°-157° C. ). 1H NMR (CDCl3) δ 2.23-2.29 (m, 2 H), 2.42-2.52 (m, 1 H), 2.67-2.78 (m, 1 H), 2.97 (dd, 2 H), 3.35 (dd, 2 H), 7.34-7.47 (m, 5 H), 6.91-7.07 (m, 4 H).

reactant | methyl acetoacetate | 3.1 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 1.2 g | [H-].[Na+]
reactant | n-butyl lithium | 1.6M, 18 mL | C(CCC)[Li]
reactant | 3-(4-fluorophenyl)propiophenone | 6.0 g | FC1=CC=C(C=C1)CCC(=O)C1=CC=CC=C1 | C15H13FO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 6-[2-(4-Fluorophenyl)-ethyl]-5,6-dihydro-4-hydroxy-6-phenyl-2H-pyran-2-one | FC1=CC=C(C=C1)CCC1(CC(=CC(O1)=O)O)C1=CC=CC=C1 | C19H17FO3
